US06121202
Preparation of 4-Benzyloxy-2-(methylsulfonyl)thiophene
A solution of 3-benzyloxy-5-(methylsulfonyl)-2-thiopenecarboxylic acid (13.6 g, 43.6 mmol) in 50 ml quinoline is treated with Cu powder (4.15 g, 65.4 mmol) at room temperature, heated to 165° C. for 15 minutes, cooled to room temperature and filtered. (The filtercake is washed with water.) The combined filtrate is acidified to pH 1 with 6N HCl and filtered. This filtercake is washed with water and dried to afford the title product as a dark grey powder, 10.1 g (86% yield), mp 108-109° C., identified by 1HNMR, 13CNMR and mass spectral analyses.

reactant | 3-benzyloxy-5-(methylsulfonyl)-2-thiopenecarboxylic acid | 43.6 mmol, 13.6 g | C(C1=CC=CC=C1)OC1=C(SC(=C1)S(=O)(=O)C)C(=O)O | C13H12O5S2
solvent | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 4-Benzyloxy-2-(methylsulfonyl)thiophene | 86% yield | C(C1=CC=CC=C1)OC=1C=C(SC1)S(=O)(=O)C | C12H12O3S2
